US09079866B2
N-tert-Butyl-3′-fluoro-4′-(1,8-naphthyridin-3-yl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide and 3-bromo-1,8-naphthyridine. MS (ESI): mass calcd. for C24H22FN3O2S, 435.14; m/z found, 436.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 9.46 (s, 1H), 9.23 (s, 1H), 8.89 (s, 1H), 8.85 (d, J=7.2, 1H), 8.18-8.14 (m, 1H), 7.94-7.90 (m, 1H), 7.80 (m, 1H), 7.70-7.65 (m, 1H), 7.62-7.57 (m, 1H), 7.49-7.40 (m, 3H), 1.11 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 3-bromo-1,8-naphthyridine | BrC=1C=NC2=NC=CC=C2C1 | C8H5BrN2
product | N-tert-Butyl-3′-fluoro-4′-(1,8-naphthyridin-3-yl)biphenyl-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1C=NC2=NC=CC=C2C1)F | C24H22FN3O2S
